US06391874B1
2-((5-(4-(4-Benzyloxy-phenylamino)-quinazolin-6-yl)-furan-2-ylmethyl)-amino)-ethanesulphonic acid amide
In an analogous manner to Example 10, 5-(4-(4-Benzyloxy-phenylamino)-quinazolin-6-yl)-furan-2-carbaldehyde hydrochloride (0.200 g, 0.436 mmol) was reacted with 2-aminoethylsulphonamide hydrochloride (0.200 g, 1.245 mmol) and triethylamine (10 drops). On completion of the reaction, the mixture was acidified with dilute HCl and diluted with water, to give the crude product as a precipitate collected by filtration. Treatment with triethylamine followed by purification by silica gel chromatography, eluting with 3-10% MeOH/CHCl3 gave the title compound as a yellow solid (0.085 g, 0.160 mmol, 37%); δH [2H6]DMSO 9.61 (2H, brs), 9.25 (1H,s), 8.58 (1H,s), 8.23 (1H,d), 7.77-7.88 (3H,m), 7.30-7.52 (5H,m), 7.26 (2H,s), 7.20 (1H,d), 7.08 (2H,d), 6.81 (1H,d), 5.14 (2H,s), 4.44 (2H,s), 3.34-3.60 (2H, m), 3.25-3.45 (2H, obscured by water); m/z (M+1+) 530.

reactant | 5-(4-(4-Benzyloxy-phenylamino)-quinazolin-6-yl)-furan-2-carbaldehyde hydrochloride | 0.436 mmol, 0.200 g | Cl.C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=NC=NC2=CC=C(C=C12)C1=CC=C(O1)C=O
reactant | 2-aminoethylsulphonamide hydrochloride | 1.245 mmol, 0.200 g | Cl.NCCS(=O)(=O)N
reactant | HCl | Cl | ClH
catalyst | triethylamine | 10 drops | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | 2-((5-(4-(4-Benzyloxy-phenylamino)-quinazolin-6-yl)-furan-2-ylmethyl)-amino)-ethanesulphonic acid amide | 0.160 mmol, 0.085 g, 37% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=NC=NC2=CC=C(C=C12)C1=CC=C(O1)CNCCS(=O)(=O)N | C28H27N5O4S
